US04705786
A stirred solution of 0.53 g of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 0.46 g of 3-nitrobenzaldehyde and 0.30 g of 2-amino-4-oxo-2-pentene in 4 ml of isopropyl alcohol was heated under reflux for 14 hours. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silica gel using benzene-acetonitrile (15:1) as eluent to give 0.79 g of 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 0.53 g | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | 3-nitrobenzaldehyde | 0.46 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-amino-4-oxo-2-pentene | 0.30 g | NC(C)=CC(C)=O | C5H9NO
solvent | isopropyl alcohol | 4 ml | C(C)(C)O | C3H8O
product | 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine | 0.79 g | C(C)(=O)C=1C(C(=C(NC1C)C)C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-] | C18H17ClN4O4
